US06087357
Thionyl chloride (0.96 ml) was added dropwise to a solution of (E)-4-morpholino-2-buten-1-ol (1.03 g) in dichloromethane (10 ml) at ice-bath temperature. After 3 hours, the reaction mixture was evaporated under reduced pressure and the resulting residue was triturated with ethyl acetate to give (E)-4-morpholino-2-butenyl chloride hydrochloride (0.98 g).

reactant | Thionyl chloride | 0.96 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (E)-4-morpholino-2-buten-1-ol | 1.03 g | O1CCN(CC1)C/C=C/CO | C8H15NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-4-morpholino-2-butenyl chloride hydrochloride | 0.98 g | Cl.O1CCN(CC1)C/C=C/CCl | InChI=1S/C8H14ClNO.ClH/c9-3-1-2-4-10-5-7-11-8-6-10;/h1-2H,3-8H2;1H/b2-1+;
